US04310692
180 g (3 mols) of urea are suspended in 500 ml of dry xylene. This is heated to an internal temperature of from 130° to 135° C. and a mixture of 303 g (3 mols) of dipropylamine and 250 ml of xylene is slowly introduced. When the reaction temperature has been reached, more dipropylamine mixture is added, with stirring. When all of the amine solution has been added, the reaction mixture is concentrated to half its volume. It is then left to cool to room temperature and the crystallized reaction product is separated by suction filtration. 345 g (80% of the theoretical yield) of N,N-dipropyl-urea having a melting point of 69° C. are obtained.

reactant | urea | 3 mols, 180 g | NC(=O)N | CH4N2O
reactant | dipropylamine | 3 mols, 303 g | C(CC)NCCC | C6H15N
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N,N-dipropyl-urea | C(CC)N(C(=O)N)CCC | C7H16N2O
